** sch_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/Testbench_cl.sch
**.subckt Testbench_cl
X1 VDD VCTRLP VBP net4 VINP2 net3 VINN2 VBN GND OTA
Xbalun1 VINDIFF VINCM VINP VINN balun
V1 VDD GND 2.5
I0 VBP GND 10u
C1 VOUTN GND 500f m=1
C2 VOUTP GND 500f m=1
Xbalun2 VOUTDIFF VOUTCM net3 net4 balun
x2 VDD GND VBN VOUTN VCTRLP VREF VBP VOUTP CMFB_real
V2 VREF GND 0.85
X9999 VOUTDIFF net1 VOUTCM net2 Dualprobe
Xbalun3 net1 net2 VOUTP VOUTN balun
C3 VINN2 VINN 2p m=1
C4 VINP2 VINP 2p m=1
C5 VOUTP VINN2 1p m=1
R1 VINN2 VOUTP 1T m=1
C6 VOUTN VINP2 1p m=1
R2 VINP2 VOUTN 1T m=1
VICM VINCM GND 0.5
VID3 VINDIFF GND PULSE(0 100m 1u 10n 10n 1u 2u)
**** begin user architecture code


.include sim_script.sim



.include /home/tare/pdk/gf180mcuC/libs.tech/ngspice/design.ngspice
.lib /home/tare/pdk/gf180mcuC/libs.tech/ngspice/sm141064.ngspice typical

**** end user architecture code
**.ends

* expanding   symbol:  OTA.sym # of pins=9
** sym_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/OTA.sym
** sch_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/OTA.sch
.subckt OTA AVDD VCTRLP IBn VOUTN VINP VOUTP VINN VBN AGND
*.iopin IBn
*.iopin AVDD
*.iopin AGND
*.iopin VINN
*.iopin VINP
*.iopin VOUTN
*.iopin VOUTP
*.iopin VCTRLP
*.iopin VBN
XM2 VDS2 VINN VDS VDS pmos_3p3 L=500n W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 VDS1 VINP VDS VDS pmos_3p3 L=500n W=40u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM9 VDS VCTRLP AVDD AVDD pmos_3p3 L=1u W=39u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 VOUTP VCASCP net2 AVDD pmos_3p3 L=700n W=10.68u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM11 net2 IBn AVDD AVDD pmos_3p3 L=1u W=39u/5 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 VOUTP VCASCN VDS2 AGND nmos_3p3 L=500n W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM8 VDS2 VBN AGND AGND nmos_3p3 L=1u W=6.37u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 VOUTN VCASCP net1 AVDD pmos_3p3 L=700n W=10.68u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM10 net1 IBn AVDD AVDD pmos_3p3 L=1u W=39u/5 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 VOUTN VCASCN VDS1 AGND nmos_3p3 L=500n W=3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM7 VDS1 VBN AGND AGND nmos_3p3 L=1u W=6.37u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM12 VBN IBn AVDD AVDD pmos_3p3 L=1u W=39*0.7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM13 VBN VBN AGND AGND nmos_3p3 L=1u W=6.37u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM14 IBn IBn AVDD AVDD pmos_3p3 L=1u W=39u/2 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM15 net3 VB1 AVDD AVDD pmos_3p3 L=1u W=39u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM16 VB1 VB1 AVDD AVDD pmos_3p3 L=1u W=39u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM17 net4 VB1 AVDD AVDD pmos_3p3 L=1u W=39u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM18 VCASCN VB2 net3 AVDD pmos_3p3 L=500n W=10.68u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM19 VB2 VB2 VB1 AVDD pmos_3p3 L=500n W=10.68u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM20 VCASCP VB2 net4 AVDD pmos_3p3 L=500n W=10.68u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM21 VB2 VBN AGND AGND nmos_3p3 L=1u W=6.37u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM22 VCASCN VCASCN AGND AGND nmos_3p3 L=500n W=430n nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM23 VCASCP VCASCN net5 AGND nmos_3p3 L=500n W=430n nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM24 net5 VCASCP AGND AGND nmos_3p3 L=1u W=30u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
**** begin user architecture code


**** end user architecture code
.ends


* expanding   symbol:  balun.sym # of pins=4
** sym_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/balun.sym
** sch_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/balun.sch
.subckt balun d c p n
*.iopin p
*.iopin n
*.iopin d
*.iopin c
E1 net1 c d 0 0.5
V1 p net1 0
F1 d 0 V1 -0.5
R1 d 0 1T m=1
E2 net2 n d 0 0.5
V2 c net3 0
F2 d 0 V2 -0.5
R2 net3 net2 1u m=1
.ends


* expanding   symbol:  CMFB.sym # of pins=8
** sym_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/CMFB.sym
** sch_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/CMFB.sch
.subckt CMFB AVDD AGND VBN VOUT1 VCTRLP VREF VBP VOUT2
.ends


* expanding   symbol:  /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/DualProbe/Dualprobe.sym # of pins=4
** sym_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/DualProbe/Dualprobe.sym
** sch_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/DualProbe/Dualprobe.sch
.subckt Dualprobe a b c d
*.iopin a
*.iopin b
*.iopin c
*.iopin d
**** begin user architecture code



Ii 0 x DC 0 AC 0
Vi x a DC 0 AC 0
Vnodebuffer b x 0

Ii1 0 y DC 0 AC 0
Vi1 y c DC 0 AC 0
Vnodebuffer1 d y 0



**** end user architecture code
.ends


* expanding   symbol:  CMFB_real.sym # of pins=8
** sym_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/CMFB.sym
** sch_path: /home/tare/ITI_Analog/ITI_Labs/Lab11_Xschem/Design/CMFB_real.sch
.subckt CMFB_real AVDD AGND VBN VOUT1 VCTRLP VREF VBP VOUT2
*.iopin VOUT1
*.iopin VOUT2
*.iopin VCTRLP
*.iopin VBP
*.iopin AVDD
*.iopin AGND
*.iopin VBN
*.iopin VREF
XM4 VCTRL2 VCM net1 AGND nmos_3p3 L=1u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 VCTRLP VREF_ADJ net1 AGND nmos_3p3 L=1u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 VCTRL2 VCTRL2 AVDD AVDD pmos_3p3 L=1u W=7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM7 VCTRLP VCTRLP AVDD AVDD pmos_3p3 L=1u W=7u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
R1 VICM1 VCM 125k m=1
R2 VCM VICM2 125k m=1
XM10 VICM2 VBP AVDD AVDD pmos_3p3 L=1u W=39u/5 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 VICM1 VBP AVDD AVDD pmos_3p3 L=1u W=39u/5 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM13 net1 VBN AGND AGND nmos_3p3 L=1u W=6.37u/2 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 AGND VOUT2 VICM2 VICM2 pmos_3p3 L=1u W=39u/5 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM3 AGND VOUT1 VICM1 VICM1 pmos_3p3 L=1u W=39u/5 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM8 VREF_ADJ VBP AVDD AVDD pmos_3p3 L=1u W=39u/5 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM9 AGND VREF VREF_ADJ VREF_ADJ pmos_3p3 L=1u W=39u/5 nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
